datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C1=CC=CC=C1)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1(C)[O+:10]([K])C(CCC)C(O)C1C>>[O:10]([K])C(CCC)C(O)C([C:20](C)=[O:21])C 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C([H])[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)CCCCCC)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)CCCCCC)CC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C([H])[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(C)C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(CC)[O]1 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([O:21][H])[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C([H])[O]2.C[O:10][H] 21=20;20,10=10"
"CCCCCC[NH:10]C.C1CC(=O)N(C1=O)O[C:20](=[O:21])CCCCCC>>CCCCCC[NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)CCCCCC)C 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C([H])[S][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[S]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([O][H])=[NH+:21]C 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[S][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.CC[S:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)[H])[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)[H])C1=CC=CC=C1 10=20;20,21=21"
"[H]C1C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C>>[H]C1C(O[C:20](=[O:10])N1C)C.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C([H])[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C)C(C)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)[NH+:10](C)C([H])C([H])C1[H]>>[NH:10](C)C([H])C([H])C([C:20](OC)=[O:21])[H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH]([H])[O]1 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10](C(C)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[O-:21][CH:20]2([H])C3=C(C(C([O:10]2)[H])O)C=CC=C3>>[O-:10]C(C(C1=C(C=CC=C1)[CH:20]([H])=[O:21])O)[H]  21=20;20,10=10"
"CC[O+:10]([K])[C:21]([O-:20])(OCC)O[H]>>[O:20]=[C:21](OCC)O[H].CC[O:10][K] 20=21;21,10=10"
"[H][O+:21]=[C:20]2[S][CH]([H])[CH](C)C(CC)[S]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH]([H])C(C)[CH](CC)[S]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"CO[CH:20]([Br:21])C1=CC=CC=C1>>CO[CH+:20]C1=CC=CC=C1.[Br-:21] 20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH][H] 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][H])([S]C)[S]C.[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([S]C)[S]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CC)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CC)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[H][S+:10](C(C)C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(CC)[S]1)[C:20]1([O:21]C)[S]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[S][C:20]([S]C)=[O+:21]C 21=20;20,10=10"
"C[S:10][H].C[O+:21]=[C:20]([O][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([O][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
